US08022062B2
7-Chloro-6-(3-fluoro-4-methoxycarbonyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add 1M aqueous NaOH (2.8 mL, 2.8 mmol) to a solution of 7-chloro-6-(3-fluoro-4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.31 g, 2.86 mmol) in 1,4-dioxane (13.3 mL) and water (2.6 mL) at 11° C. Allow mixture to warm to room temperature and stir for 1 h. Concentrate in vacuo and partition the residue between dichloromethane (250 mL) and saturated aqueous NaHCO3 (100 mL). Dry the organic phase over Na2SO4, filter and concentrate in vacuo to afford the desired intermediate that was used without further purification.

reactant | NaOH | 2.8 mmol, 1M, 2.8 mL | [OH-].[Na+]
reactant | 7-chloro-6-(3-fluoro-4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.86 mmol, 1.31 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC(=C(C=C1)C(=O)OC)F | C21H19ClF4N2O3
solvent | 1,4-dioxane | 13.3 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.6 mL | O | H2O
product | 7-Chloro-6-(3-fluoro-4-methoxycarbonyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCNCC2)C=C1)NCC1=CC(=C(C=C1)C(=O)OC)F | C19H20ClFN2O2
